US05723450
3-Chloro-4-[4-(2,4-dichlorobenzylidene)cyclohexyl]amino-2-ethylpyridine
1.6 g of 3,4-dichloro-2-ethylpyridine and 2.5 g of 4-(2,4-dichlorobenzylidene)cyclohexylamine are heated at 180° C. for 3.5 hours together with 55 g of ammonium chloride in 9 ml of N-methylpyrrolidone. After cooling, the mixture is poured into saturated sodium bicarbonate solution and extracted with ethyl acetate. The product is purified by chromatography on silica gel using ethyl acetate/heptane 1:4. Yield: 7%

reactant | 3,4-dichloro-2-ethylpyridine | 1.6 g | ClC=1C(=NC=CC1Cl)CC | C7H7Cl2N
reactant | 4-(2,4-dichlorobenzylidene)cyclohexylamine | 2.5 g | ClC1=C(C=C2CCC(CC2)N)C=CC(=C1)Cl | C13H15Cl2N
reactant | ammonium chloride | 55 g | [Cl-].[NH4+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N-methylpyrrolidone | 9 ml | CN1C(CCC1)=O | C5H9NO
product | 3-Chloro-4-[4-(2,4-dichlorobenzylidene)cyclohexyl]amino-2-ethylpyridine | Yield: 7% | ClC=1C(=NC=CC1NC1CCC(CC1)=CC1=C(C=C(C=C1)Cl)Cl)CC | C20H21Cl3N2
